US04895861
(Step 1) Preparation of 2-(2-Naphthalenyl)-3-phenylpropionitrile
To a refluxing solution of NaH (3.00 g, 75 mmol, 60% dispersion) in DME (150 mL) was added a solution of 2-naphthaleneacetonitrile (12.5 g, 75 mmol) and benzyl bromide (12.8 g, 75 mmol) in DME (75 mL) dropwise over 50 minutes. The resulting solution was kept at reflux for 3 hours and then cooled to room temperature. The volatiles were removed in vacuo and the residue was partitioned between Et2O (100 mL) and H2O (100 mL). The aqueous phase was washed with Et2O (1×150 mL), the organics were dried (MgSO4) and concentrated in vacuo. This residue was purified by preparative HPLC (SiO2 : gradient hexane/EtOAc) to give the title compound as a white solid (7.71 g, 40%).

reactant | NaH | 75 mmol, 3.00 g | [H-].[Na+]
reactant | 2-naphthaleneacetonitrile | 75 mmol, 12.5 g | C1=C(C=CC2=CC=CC=C12)CC#N | C12H9N
reactant | benzyl bromide | 75 mmol, 12.8 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DME | 150 mL | COCCOC | C4H10O2
solvent | DME | 75 mL | COCCOC | C4H10O2
product | 2-(2-Naphthalenyl)-3-phenylpropionitrile | 7.71 g, 40% | C1=C(C=CC2=CC=CC=C12)C(C#N)CC1=CC=CC=C1 | C19H15N
